US06727244B2
Thus, 18.5 g of selenium dioxide was dissolved in 100 mL of dioxane by warming to 50° C. and stirring until all was in solution. To this solution was added. 23 g of 4′-fluoroacetophenone and the reaction was refluxed for 4 h. The hot solution was decanted from the solid selenium and the dioxane and water were removed by distillation through a short column at atmospheric pressure. Distillation of the residue at reduced pressure afforded 20 g of 4-fluorophenylglyoxal as a thick yellow oil which was contaminated by some starting 4′-fluoroacetophenone. This can be used directly or, more preferably, it can be converted to pure hydrate (see the last paragraph of the reference and note 5). A portion was boiled in water for 0.5 h and the aqueous layer was decanted from an oily residue and then allowed to cool. The hydrate is obtained as a white solid after filtration and air drying.

reactant | selenium dioxide | 18.5 g | [Se](=O)=O | O2Se
reactant | 4′-fluoroacetophenone | 23 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-fluorophenylglyoxal | 20 g | FC1=CC=C(C=C1)C(=O)C=O | C8H5FO2
